US08222248B2
To a stirred solution of (2,4,6-trichlorophenyl)-methanol (350 mg, 1.67 mmol) in CH2Cl2 (10 mL) was added Dess-Martin reagent (742 mg, 1.75 mmol). After the addition, the solution was stirred at ambient temperature for 2 h. The reaction was quenched with sat. NaHCO3 and the aqueous layer was extracted with EtOAc. The organic layer was washed with water, brine, dried with MgSO4, and filtered. The solvent was removed under reduced pressure to give 2,4,6-trichlorobenzaldehyde as a white solid.

reactant | (2,4,6-trichlorophenyl)-methanol | 1.67 mmol, 350 mg | ClC1=C(C(=CC(=C1)Cl)Cl)CO | C7H5Cl3O
reactant | Dess-Martin reagent | 1.75 mmol, 742 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,4,6-trichlorobenzaldehyde | ClC1=C(C=O)C(=CC(=C1)Cl)Cl | C7H3Cl3O
